US07781438B2
Preparation of (4-Chloro-benzyl)-[2,2-dimethoxy-1-methyl-eth-(Z)-ylidene]-amine
In a three-necked round bottomed flask equipped with a Dean Stark trap and reflux cooler, a solution of 4-chlorobenzylamine (97.3 g, 0.687 mol) and 1,1-dimethoxy-propan-2-one (89.5 g, 0.758 mol) in toluene (300 mL) was heated for 3 h at reflux. The reaction mixture was cooled down and the solvent removed in vacuo to yield the title compound as a pale yellow oil (166 g, 0.687 mol, 100%). MS (ES+): 242 (M(C12H1635ClNO2)+H)+.MS (ES+): 242 (M+H)+.

reactant | 4-chlorobenzylamine | 0.687 mol, 97.3 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 1,1-dimethoxy-propan-2-one | 0.758 mol, 89.5 g | COC(C(C)=O)OC | C5H10O3
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | (4-Chloro-benzyl)-[2,2-dimethoxy-1-methyl-eth-(Z)-ylidene]-amine | 0.687 mol, 166 g, 100% | ClC1=CC=C(C\N=C(/C(OC)OC)\C)C=C1 | C12H16ClNO2
